US06437150B1
4-Hydroxy-undecanoic Acid Dodecylamide
A solution of 19.0 g aluminum chloride, dissolved in methylene chloride, was cooled to 0° C. and 46.5 g dodecylamine in methylene chloride was added dropwise (exothermic). At room temperature, 19.3 g gamma-undecalactone was added rapidly. The temperature rose to 36° C. The reaction was stirred at room temperature for 4 hours. The mixture was quenched with water and filtered over Celite. The liquid was extracted with ether and washed with water and brine. The solution was dried, filtered and evaporated to dryness. The resulting brown crystals were purified by recrystallization from ether/ethylacetate to give pale yellow crystals.

reactant | aluminum chloride | 19.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dodecylamine | 46.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | gamma-undecalactone | 19.3 g | CCCCCCCC1CCC(=O)O1 | C11H20O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-undecanoic Acid Dodecylamide | C(CCCCCCCCCCC)NC(CCC(CCCCCCC)O)=O | C23H47NO2
